US04048332
A solution of 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl) propionic acid (1 g.) and 2-amino-2-methylpropan-1-ol (1 ml.) in xylene (20 ml.) was stirred under reflux for 3 days. The solvent was distilled and the solid residue was recrystallised from aqueous methanol to give 2-[1-(2',4'-difluoro-2-hydroxy-4-biphenylyl)ethyl]-4,4-dimethyl-2-oxazoline, m.p. 188°-194° C. (decomposes).

reactant | 2-(2',4'-difluoro-2-hydroxy-4-biphenylyl) propionic acid | 1 g | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(C(=O)O)C)O | C15H12F2O3
reactant | 2-amino-2-methylpropan-1-ol | 1 ml | NC(CO)(C)C | C4H11NO
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[1-(2',4'-difluoro-2-hydroxy-4-biphenylyl)ethyl]-4,4-dimethyl-2-oxazoline | FC1=C(C=CC(=C1)F)C1=C(C=C(C=C1)C(C)C=1OCC(N1)(C)C)O | C19H19F2NO2
